US06579984B1
5.00 g of methyl 4-fluorobenzoylacetate (24.2 mmol, concentration 95%) and 1.69 g of isobutyronitrile (24.2 mmol, concentration 98%) were dissolved in 25 ml of toluene and treated with 7.01 g of tin tetrachloride (26.6 mmol, concentration >99%) at room temperature after the course of 10 minutes. After 3 h at room temperature, the mixture was heated to 80° C. After 11.5 h, the suspension was again cooled to room temperature and treated with 25 ml of water. The mixture was diluted with 10 ml of ethyl acetate and the phases were separated. The organic phase was washed twice with 10 ml of 1N sodium hydroxide solution and concentrated in vacuo (40° C./25 mbar) after drying over magnesium sulphate. 6.18 g of crude product were obtained in the form of a yellow oil. After chromatography on silica gel (eluent: hexane/ethyl acetate 1.5:1), 3.84 g of methyl 3-amino-2-[1-(4-fluorophenyl)methanoyl]-4-methylpent-2-enoate were obtained in the form of an oil.

reactant | methyl 4-fluorobenzoylacetate | 24.2 mmol, 5.00 g | FC1=CC=C(C(=O)CC(=O)OC)C=C1 | C10H9FO3
reactant | isobutyronitrile | 24.2 mmol, 1.69 g | C(C(C)C)#N | C4H7N
reactant | tin tetrachloride | 26.6 mmol, 7.01 g | [Sn](Cl)(Cl)(Cl)Cl
reactant | water | 25 ml | O | H2O
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | methyl 3-amino-2-[1-(4-fluorophenyl)methanoyl]-4-methylpent-2-enoate | 3.84 g, Yield: 59.0% | NC(=C(C(=O)OC)C(=O)C1=CC=C(C=C1)F)C(C)C | C14H16FNO3
